US06251926B1
A mixture of 5-chloro-2-(chloromethyl)imidazo[1,2-a]pyridine hydrochloride (3.00 g), 4-hydroxybenzaldehyde (1.81 g), potassium carbonate (6.14 g) and N,N-dimethylformamide (30 ml) was stirred at room temperature for 15 hours, poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from ethyl acetate-hexane to obtain 4-(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)benzaldehyde (3.55 g, yield 98%) as colorless crystals. m.p. 126-130° C.

reactant | 5-chloro-2-(chloromethyl)imidazo[1,2-a]pyridine hydrochloride | 3.00 g | Cl.ClC1=CC=CC=2N1C=C(N2)CCl
reactant | 4-hydroxybenzaldehyde | 1.81 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 6.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)benzaldehyde | 3.55 g, yield 98% | ClC1=CC=CC=2N1C=C(N2)COC2=CC=C(C=O)C=C2 | C15H11ClN2O2
